US04280011
Ethyl 2-[(1'-Methoxy)n-Decyloxy]Propionate
Into a 50 ml. round-bottom flask equipped with a static nitrogen acid, thermometer, mantle, and magnetic stirrer, was charged 10.2 g. of methyl decenyl ether and 3.5 g. of ethyl lactate. One drop of HCl was added after heating the mixture to 40° C., whereupon an exotherm to 63° C. was experienced. Stirring was continued for 2.3 hours at between 40° and 53° C. The mixture was quenched with solid sodium carbonate. Another run made with 20.4 g. of the methyl decenyl ether and 7.1 g. of ethyl lactate was performed in a similar manner and combined with the above run for workup. The product was distilled on a one-foot micro-vigreaux column:

reactant | methyl decenyl ether | C(=CCCCCCCCC)OC | C11H22O
reactant | ethyl lactate | C(C(O)C)(=O)OCC | C5H10O3
catalyst | HCl | One drop | Cl | ClH
product | Ethyl 2-[(1'-Methoxy)n-Decyloxy]Propionate | COC(CCCCCCCCC)OC(C(=O)OCC)C | C16H32O4
